US07968573B2
A solution of 2.0 g of potassium permanganate in 10 ml of water was added dropwise to a mixture of 1.2 g of 4-bromo-1-(3-chloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde and 30 ml of acetone while the mixture was maintained at 40° C. The resulting mixture was stirred at 60° C. for 1 hour. A precipitate was filtered off to obtain a filtrate. The filtrate was adjusted to pH 10-12 by an addition of a 2N aqueous sodium hydroxide solution, and then washed with chloroform two times. The aqueous layer was adjusted to around pH 3 by an addition of 2N hydrochloric acid, and then extracted with ethyl acetate two times. The organic layers were combined, washed successively with water and an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 0.43 g of 4-bromo-1-(3-chloro-4-pyridinyl)-1H-pyrrole-2-carboxylic acid of the formula:

reactant | potassium permanganate | 2.0 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 4-bromo-1-(3-chloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde | 1.2 g | BrC=1C=C(N(C1)C1=C(C=NC=C1)Cl)C=O | C10H6BrClN2O
reactant | acetone | 30 ml | CC(=O)C | C3H6O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 4-bromo-1-(3-chloro-4-pyridinyl)-1H-pyrrole-2-carboxylic acid | 0.43 g | BrC=1C=C(N(C1)C1=C(C=NC=C1)Cl)C(=O)O | C10H6BrClN2O2
